US06191124B1
[1-(6,7,8,9-Tetrahydro-5H-cyclohept[d]-imidazo[2,1-b]thiazol-3-yl)-ethanone (Formula N-4), 2.34 g and 3-fluorobenzaldehyde were reacted using non-critical variations of the teachings Example 15 to give 3-(3-fluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept [d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one (Formula N-5, X=3-fluoro), 3.08 g, m.p. 176-177°.

reactant | 1-(6,7,8,9-Tetrahydro-5H-cyclohept[d]-imidazo[2,1-b]thiazol-3-yl)-ethanone | N=1C=C(N2C1SC1=C2CCCCC1)C(C)=O | C12H14N2OS
reactant | 3-fluorobenzaldehyde | FC=1C=C(C=O)C=CC1 | C7H5FO
product | 3-(3-fluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept [d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | FC=1C=C(C=CC1)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C19H17FN2OS
